Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
"last few months ___ me on Parnate it was the last
medication I tried I've been on so many medications that have 
not
worked"

 
Major Surgical or Invasive Procedure:
ECT x2

 
History of Present Illness:
The patient is a ___ yo female with hx of depression since age ___
which is when she was first started on medications and has been
followed by different psychiatrist through out the years and
several months ago saw Dr. ___ @ ___ who based on her
refractory depression recommended ECT.The patient was interested
but parents were reluctant until she had had more medication
trials.
The patient has been depressed for the last ___ years and more
acutely over the last month.The patient was then put on Parnate
and did not respond well.
The patient reports that she has not been able to go to work for
the past month, that she has felt more sensitive and irritable 
and worse since it was become "cold and dark."She acknowledges
that she has had passive si but feels that she has a very
supportive family and would never harm herself.She said that she
feels more hopeless about the future especially when she sees
other people moving along with their life and is not able to get
her "life moving."
She is currently living on ___, in ___, with roommates
and is an ___ for the elderly and is struggling with
finances.

 
Past Medical History:
* PCP ___ affliate
* Hypothyroidism
* w/u for temporal lobe epilepsy as a child with no strong
  conclusion that her psychiatric problems were neurologically
  based. 
* ___
* worked in the past for Marfan's syndrome and ___ 
  syndromes both negative

 
Social History:
SUBSTANCE ABUSE HISTORY (INCLUDE HISTORY OF D.T.'S, WITHDRAWAL
SEIZURES, BLACKOUTS, DETOX TREATMENT, I.V. USAGE):
alcohol:2 drinks qod as she and her family go out to dinner
        frequently, she said she has a tendency to drink too
        much and has nocs when she cannot remember pieces of
        it, denies blackouts or w/d sz
drugs: denies
tob:"quit"
caffeine: 1 cup of coffee a day

SOCIAL HISTORY (FAMILY OF ORIGIN, CHILDHOOD, PHYSICAL/SEXUAL
ABUSE HISTORY, EDUCATION, EMPLOYMENT, RELATIONSHIPS, SEXUAL
HISTORY/STD RISKS, MILITARY RECORD, LEGAL HISTORY, ETC.):
The patient grew up in ___, ___, and has 2 older
siblings, brother and sister who are twins and a younger sister.
She is from an intact family, very supportive and they all live
nearby.She attended ___ for ___ years and became more
depressed and was not able to complete her last year of college.
She currently lives in ___., with roommates and works a
___ case ___ with the elderly.

 
Family History:
paternal grandfather with severe depression and ETOH
Paternal uncle led an isolated life
Mother and brother with adhd
Father with "mild depression"

 
Physical Exam:
T 96.4 HR 121/76 HR 125 R 17

MENTAL STATUS EXAM (USE FULL, DESCRIPTIVE SENTENCES WHERE
APPLICABLE)
     APPEARANCE & FACIAL ___ yo single cauc. female,
dressed in hospital gown and hooded sweatshirt, well groomed 
with
good hygiene and maintains good eye contact
     POSTURE:sitting on a strether
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS):none noted
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE):pleasant and
cooperative
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC,
ETC.):articulate with normal rate
     MOOD:depressed
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.):sad
with an occassional smile
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.):linear
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,          

DELUSIONS, ETC.):denies
     ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS):denies
     NEUROVEGETATIVE SYMPTOMS (E.G., DISTURBANCES OF SLEEP,      

APPETITE, ENERGY, LIBIDO):sleeps with Ativan " I don't sleep 
that
well", dec. appetite has lost wgt over the last 2 months,dec.
energy, not working
     SUICIDALITY/HOMICIDALITY (INCLUDE IDEATION, INTENT,
PLAN):denies SI or hi
     INSIGHT AND JUDGMENT:limited/fair
     COGNITIVE ASSESSMENT:
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT):alert
          ORIENTATION:" the ___ ___ US. Pres.
___
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.):able to
perform serial 3's
          MEMORY (SHORT- AND ___ out of 3 in 5 "
          CALCULATIONS:9 quarters = $2.25
          FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE):wnl " the
economy, ___ is our next President"
          PROVERB INTERPRETATION:Glass houses"don't be a
hypocrite"
          SIMILARITIES/ANALOGIES:apples/oranges "fruit"

 
Pertinent Results:
___ 06:36PM URINE  ___
___ 06:36PM URINE  ___
___ 06:36PM URINE  GR ___
___ 06:36PM URINE  ___ 
___
___ 06:36PM URINE  ___ SP ___
___ 06:36PM URINE  ___ 
___ 
___
___ 05:07PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 05:07PM   ___ this
___ 05:07PM   VIT ___
___ 05:07PM   ___
___ 05:07PM   HCG-<5
___ 05:07PM   ___ 
___
___ 05:07PM   ___ 
___
___ 05:07PM   ___ 
___
___ 05:07PM   PLT ___
 
Brief Hospital Course:
The patient was admitted to the ___ inpatient psychiatric unit 
on ___. Ms. ___ outpatient psychiatrist, Dr. ___ was 
contact. In coordination with his interests in a trial of 
Remeron, Parnate was tapered and eventually discontinued.  After 
being cleared by medicine, ECT was started. She received 2 
treatments during this stay and will continue these treatements 
as an outpatient after discharge. 

On admission, Ms. ___ reported multiple crying spells on a 
daily basis in conjunction with a depressed mood and declining 
ability to function. After starting ECT, Ms. ___ reported 
improvement in her mood and her crying spells abated. She 
exhibited no ___ impairments during her hospital course. 
She attended groups regularly, and had no behavioral issues.

At discharge the patient had appointments made with her a new 
therapist, her PCP, and for outpatient ECT. She will call her 
psychiatrist to schedule a follow up appointment. The patient 
and her family were aware of this plan and agreed.  
 
Medications on Admission:
Lorazepam 1mg bid
Tranylcypromine {Parnate} 10mg bid per patient she was 
prescribed
tid but couldn't tolerate it

 
Discharge Medications:
1. Levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Major Depression
Axis II: deferred
Axis III: hypothyroidism

 
Discharge Condition:
Stable with improvement in mood since admission.

 
Discharge Instructions:
Take all medications as prescribed. Keep all ___ 
appointments. If you have thoughts of self harm, call ___ or go 
to the nearest emergency department.
 
Followup Instructions:
___